US08633173B2
(3-Methanesulfonyl-phenyl)-[5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75 mg, 0.26 mmol) and 1-bromo-3-methanesulfonyl benzene (73 mg, 0.29 mmol) in a manner analogous to Example 77 to yield (3-methanesulfonyl-phenyl)-[5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine (47 mg, 39%) as a white powder following trituration with methanol. MP=279° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 10.18 (s, 1H), 8.49 (s, 1H), 8.37 (d, J=8.0 Hz, 2H), 8.15 (d, J=8.0 Hz, 2H), 7.70-7.81 (m, 3H), 7.55 (t, J=17.4 Hz, 8.0 Hz, 1H), 7.36-7.45 (m, 2H), 3.30 (s, 3H), 3.17 (s, 3H). MS=443 (MH)+.

reactant | 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.26 mmol, 75 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 1-bromo-3-methanesulfonyl benzene | 0.29 mmol, 73 mg | BrC1=CC(=CC=C1)S(=O)(=O)C | C7H7BrO2S
product | (3-methanesulfonyl-phenyl)-[5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | 47 mg, 39% | CS(=O)(=O)C=1C=C(C=CC1)NC1=NN2C(C=CC=C2C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C20H18N4O4S2
